* ----------------------------------------------------------
* Functional blocks for LTspice simulator
* Created by Valentin Volodin
* email: valvolodin@narod.ru
* 4 June 2018.
* ---------------------------------------------------------- 
* ---------------------------------------------------------- 
*Ideal IGBT 
.subckt igbt c g e
S1 e N001 g 0 ms
D1 c N001 ds
D2 e c dp
.model ds D(Ron={tr} Roff=10Meg Vfwd={vs})
.model ms SW(Ron=1u Roff=10Meg Vt=0.5 Vh=-0.1)
.model dp D(Ron={dr} Roff=10Meg Vfwd={dv})
.ends igbt
* ---------------------------------------------------------- 
*Ideal MOSFET 
.subckt mosfet d g s
S1 s d g 0 ms
D2 s d dp
.model ms SW(Ron={rn} Roff={2*rf} Vt=0.5 Vh=-0.1)
.model dp D(Ron={dr} Roff={2*rf} Vfwd={dv})
.ends mosfet
* ---------------------------------------------------------- 
*ABC to DQO Transformation Block 
.subckt abc-dqo a b c teta d q o
B4 o 0 V=2*(V(a)/2+V(b)/2+V(c)/2)/3
B2 d 0 V=2*(V(a)*cos(V(teta))+V(b)*cos(V(teta)-2*pi/3)+V(c)*cos(V(teta)+2*pi/3))/3
B3 q 0 V=2*((2*tf-1)*V(a)*sin(V(teta))+(2*tf-1)*V(b)*sin(V(teta)-2*pi/3)+(2*tf-1)*V(c)*sin(V(teta)+2*pi/3))/3
.ends abc-dqo
* ---------------------------------------------------------- 
*DQO to ABC Transformation Block
.subckt dqo-abc d q o teta a b c
B4 c 0 V=V(d)*cos(V(teta)+2*pi/3)+(2*tf-1)*V(q)*sin(V(teta)+2*pi/3)+V(o)
B2 a 0 V=V(d)*cos(V(teta))+(2*tf-1)*V(q)*sin(V(teta))+V(o)
B3 b 0 V=V(d)*cos(V(teta)-2*pi/3)+(2*tf-1)*V(q)*sin(V(teta)-2*pi/3)+V(o)
.ends dqo-abc
* ---------------------------------------------------------- 
*ABC to Alpha and Beta Transformation Block 
.subckt abc-alpha_beta a b c alpha beta
E1 alpha N001 a 0 {kp}
E2 N001 N002 b 0 {-0.5*kp}
E3 N002 0 c 0 {-0.5*kp}
E4 beta N003 b 0 {kp*sqrt(3)/2}
E5 N003 0 c 0 {-kp*sqrt(3)/2}
.params kp=if(tf,sqrt(2/3),2/3)
.ends abc-alpha_beta
* ---------------------------------------------------------- 
*Zero-order hold block
.subckt zoh inp out
C1 N003 0 1n ic=0
S1 N003 N001 N002 0 zoh
V2 N002 0 PULSE(0 5 {td} {0.01/fs} {0.01/fs} {0.01/fs} {1/fs})
E1 N001 0 inp 0 1
E2 out 0 N003 0 {kp}
.model zoh SW(Ron={0.5k/fs} Roff={1000t/fs} Vt=2.5 Vh=-.5)
.ends zoh
* ---------------------------------------------------------- 
*Proportional block
.subckt pc inp out
E1 out 0 inp 0 {kp}
.ends pc
* ---------------------------------------------------------- 
*Proportional-integral (PI) controller 
.subckt pi inp out
G1 0 N001 inp 0 1
C2 N001 0 {ti/kp} Rser={kp}
D1 0 N001 dlim
E1 out 0 N001 0 1
.model dlim D(Ron=0 Roff=1g Vfwd={-1*ll} Vrev=ul)
.ends pi
* ---------------------------------------------------------- 
*Integrator that is reset internally 
.subckt idt_ir inp out
V1 init 0 PWL(0 {iv} 10n 0)
B5 out 0 V=sdt(V(inp)/ti,V(init),V(vit)>0.9)
A1 out 0 0 0 0 0 N001 0 BUF Trise=10n ref={ul}
A2 N001 0 0 0 N002 0 vit 0 OR Trise=10n
A3 out 0 0 0 0 N002 0 0 BUF Trise=10n ref={ll}
.ends idt_ir
* ---------------------------------------------------------- 
*1nd-order low-pass filter 
.subckt lpf1 inp out
E1 out 0 N002 0 1
E2 N001 0 inp 0 {kf}
R1 N001 N002 {sqrt(1/(2*pi*fc))}
C1 N002 0 {sqrt(1/(2*pi*fc))}
.ends lpf1
* ---------------------------------------------------------- 
*2nd-order low-pass filter 
.subckt lpf2 inp out
L1 N001 N002 {1/(2*pi*fc)}
R1 N003 N002 {dr*2}
C1 N003 0 {1/(2*pi*fc)} ic=0
E1 out 0 N003 0 1
E2 N001 0 inp 0 {kf}
.ends lpf2
* ---------------------------------------------------------- 
*s-domain transfer function block 
.subckt tfcn inp out
E1 out 0 inp 0 laplace=k*(b4*s^4+b3*s^3+b2*s^2+b1*s+b0)/(a4*s^4+a3*s^3+a2*s^2+a1*s+b0)
.ends tfcn
* ---------------------------------------------------------- 
*Triangular-wave voltage source
.subckt vtr 1 2
V1 1 2 PULSE({DCoff} {Vpp+DCoff} {Tst} {D/F} {(1-D)/F} 0 {1/F})
.ends vtr
* ---------------------------------------------------------- 
*Step voltage source
.subckt vst 1 2
V1 1 2 PWL(0 0 {ts} 0 {ts+tt} {vs})
.ends vst
* ---------------------------------------------------------- 
*Proportional Time Voltage Source
.subckt vtm 1 2
B1 1 2 V=if(time>st,time-st,0)
.ends vtm
* ---------------------------------------------------------- 
*3-phase Y-connected sinusoidal voltage source
.subckt v3f A B C N
V1 N001 N SINE(0 {VL*sqrt(2)/sqrt(3)} {f} 0 0 {ph})
L1 N001 A {ls} Rser={rs}
V2 N002 N SINE(0 {VL*sqrt(2)/sqrt(3)} {f} 0 0 {ph-120})
V3 N003 N SINE(0 {VL*sqrt(2)/sqrt(3)} {f} 0 0 {ph-240})
L2 N002 B {ls} Rser={rs}
L3 N003 C {ls} Rser={rs}
.ends v3f
* ---------------------------------------------------------- 
*Summer with 2 Input
.subckt sum inp1 inp2 out
E2 N001 0 inp2 0 {k2}
E1 out N001 inp1 0 {k1}
.ends sum
* ---------------------------------------------------------- 
*Multiplier
.subckt mult inp1 inp2 out
B1 out 0 V=V(inp1)*V(inp2)
.ends mult
* ---------------------------------------------------------- 
*Sine funktion block (gradus)
.subckt sin inp out
B1 out 0 V=sin(V(inp)*pi/180)
.ends sin
* ---------------------------------------------------------- 
*Cosine funktion block (gradus)
.subckt cos inp out
B1 out 0 V=cos(V(inp)*pi/180)
.ends cos
* ---------------------------------------------------------- 
*Sine funktion block (radian)
.subckt sinr inp out
B1 out 0 V=sin(V(inp))
.ends sinr
* ---------------------------------------------------------- 
*Cosine funktion block (radian)
.subckt cosr inp out
B1 out 0 V=cos(V(inp))
.ends cosr
* ---------------------------------------------------------- 
*Arctangent 2 function block (radian)
.subckt atan2r y x out
B1 out 0 V=atan2(V(y),V(x))
.ends atan2r
* ---------------------------------------------------------- 
*Arctangent 2 function block (gradus)
.subckt atan2g y x out
B1 out 0 V=180*atan2(V(y),V(x))/pi
.ends atan2g
* ----------------------------------------------------------
*Divider
.subckt div inp1 inp2 out
B1 out 0 V=V(inp1)/V(inp2)
.ends div
* ----------------------------------------------------------
*Square-root block
.subckt sqrt inp out
B1 out 0 V=sqrt(V(inp))
.ends sqrt
* ---------------------------------------------------------- 
*Current sensor
.subckt isen inp1 inp2 out
H1 out 0 V1 {k}
V1 inp1 inp2 0
.ends isen
* ---------------------------------------------------------- 
*Voltage sensor
.subckt vsen inp1 inp2 out
E1 out 0 inp1 inp2 {k}
.ends vsen
* ---------------------------------------------------------- 
*Monostable multivibrator with adjustable width
.subckt mono2 s1 s2 vc q1 q2
D1 N006 N007 res
C1 N006 0 1n
B1 0 N006 I=0.5n/V(Vc)
A1 N003 N006 0 0 0 q2 q1 0 SRFLOP Trise=10n
A2 N002 0 0 0 N005 0 N003 0 OR Trise=10n
R1 N005 0 1k
D2 0 N005 res
C2 N005 N004 470p
R2 0 N002 1k
D3 0 N002 res
C3 N002 N001 470p
A3 s1 0 0 0 0 0 N001 0 BUF Trise=10n
A4 s2 0 0 0 0 N004 0 0 BUF Trise=10n
A5 q1 0 0 0 0 0 N007 0 BUF Trise=10n
.model res D(Ron=1 Roff=1g Vfwd=0)
.ends mono2
* ---------------------------------------------------------- 
*Limiter
.subckt limiter inp out
E1 out 0 inp 0 table=({LL} {LL},{UL} {UL})
.ends limiter
* ---------------------------------------------------------- 
*Limiter2
.subckt limiter2 inp out
B1 out 0 V=if(V(inp)>UL,UL,if(V(inp)<LL,LL,V(inp)))
.ends limiter2
* ---------------------------------------------------------- 
*2-dimensional lookup table (with integer input)
.subckt tab6x5 s k out
R1 o 0 1k
E1 out 0 o 0 1
.machine tripdt=10n
.state s11 {s11}
.state s12 {s12}
.state s13 {s13}
.state s14 {s14}
.state s15 {s15}
.state s21 {s21}
.state s22 {s22}
.state s23 {s23}
.state s24 {s24}
.state s25 {s25}
.state s31 {s31}
.state s32 {s32}
.state s33 {s33}
.state s34 {s34}
.state s35 {s35}
.state s41 {s41}
.state s42 {s42}
.state s43 {s43}
.state s44 {s44}
.state s45 {s45}
.state s51 {s51}
.state s52 {s52}
.state s53 {s53}
.state s54 {s54}
.state s55 {s55}
.state s61 {s61}
.state s62 {s62}
.state s63 {s63}
.state s64 {s64}
.state s65 {s65}
.rule * s11 (V(s)<1.1)&(V(s)>0.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s12 (V(s)<1.1)&(V(s)>0.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s13 (V(s)<1.1)&(V(s)>0.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s14 (V(s)<1.1)&(V(s)>0.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s15 (V(s)<1.1)&(V(s)>0.9)&(V(k)<5.1)&(V(k)>4.9)
.rule * s21 (V(s)<2.1)&(V(s)>1.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s22 (V(s)<2.1)&(V(s)>1.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s23 (V(s)<2.1)&(V(s)>1.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s24 (V(s)<2.1)&(V(s)>1.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s25 (V(s)<2.1)&(V(s)>1.9)&(V(k)<5.1)&(V(k)>4.9)
.rule * s31 (V(s)<3.1)&(V(s)>2.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s32 (V(s)<3.1)&(V(s)>2.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s33 (V(s)<3.1)&(V(s)>2.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s34 (V(s)<3.1)&(V(s)>2.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s35 (V(s)<3.1)&(V(s)>2.9)&(V(k)<5.1)&(V(k)>4.9)
.rule * s41 (V(s)<4.1)&(V(s)>3.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s42 (V(s)<4.1)&(V(s)>3.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s43 (V(s)<4.1)&(V(s)>3.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s44 (V(s)<4.1)&(V(s)>3.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s45 (V(s)<4.1)&(V(s)>3.9)&(V(k)<5.1)&(V(k)>4.9)
.rule * s51 (V(s)<5.1)&(V(s)>4.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s52 (V(s)<5.1)&(V(s)>4.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s53 (V(s)<5.1)&(V(s)>4.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s54 (V(s)<5.1)&(V(s)>4.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s55 (V(s)<5.1)&(V(s)>4.9)&(V(k)<5.1)&(V(k)>4.9)
.rule * s61 (V(s)<6.1)&(V(s)>5.9)&(V(k)<1.1)&(V(k)>0.9)
.rule * s62 (V(s)<6.1)&(V(s)>5.9)&(V(k)<2.1)&(V(k)>1.9)
.rule * s63 (V(s)<6.1)&(V(s)>5.9)&(V(k)<3.1)&(V(k)>2.9)
.rule * s64 (V(s)<6.1)&(V(s)>5.9)&(V(k)<4.1)&(V(k)>3.9)
.rule * s65 (V(s)<6.1)&(V(s)>5.9)&(V(k)<5.1)&(V(k)>4.9)
.output (o) state
.endmachine
.ends limit2
* ---------------------------------------------------------- 
